US07767665B2
2-[6-(4-Phenyl-1-piperazinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.25 g, 1.5 mmol), 2-cyano-6-(4-phenyl-1-piperazinyl)pyridine (0.40 g, 1.5 mmol), triethylamine (0.32 ml, 2.3 mmol) and toluene (30 ml) was refluxed for 48 hrs. The reaction mixture was concentrated under reduced pressure and the crude crystals were recrystallized from ethanol to give the titled compound (0.20 g, 33%) as crystals.

reactant | methyl thiosalicylate | 1.5 mmol, 0.25 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-(4-phenyl-1-piperazinyl)pyridine | 1.5 mmol, 0.40 g | C(#N)C1=NC(=CC=C1)N1CCN(CC1)C1=CC=CC=C1 | C16H16N4
reactant | triethylamine | 2.3 mmol, 0.32 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[6-(4-Phenyl-1-piperazinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.20 g, 33% | C1(=CC=CC=C1)N1CCN(CC1)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C23H20N4OS
